US07129239B2
Preparation of 6-tert-Butoxy-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine (2A-1)
6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine I-(1A-1)d, potassium tert-butoxide (20 mg, 0.15 mmol) and tetrahydrofuran (1 ml) were combined and stirred overnight at ambient temperature. The reaction mixture was concentrated to dryness and the residue was extracted into ethyl acetate from saturated aqueous NaHCO3 solution. The organic layers were combined, dried (Na2SO4), filtered, and evaporated to dryness. The crude product was purified by chromatography on a preparative TLC plate using 4% methanol/methylene chloride as the solvent to give title compound 2A-1 as a yellow oil: +ESI MS (M+1) 447.5; 1H NMR (400 MHz, CD3OD) δ 8.48 (s, 1H), 7.64 (d, J=8.3 Hz, 1H), 7.55 (d, J=2.1 Hz, 1H), 7.49–7.44 (m, 3H), 7.34 (d, J=9.1 Hz, 2H), 1.77 (s, 9H).

reactant | 6-Chloro-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H8Cl4N4
reactant | potassium tert-butoxide | 0.15 mmol, 20 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-tert-Butoxy-9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine | C(C)(C)(C)OC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C21H17Cl3N4O
